US05376647
A solution of tetraethyl 4-(2-pyridylthio)butylaminomethylenebisphosphonate (2.50 g) in hydrochloric acid (40 ml) was stirred for 3 hours under reflux. The reaction mixture was concentrated under reduced pressure. Acetone was added to the residue and the separated white precipitate was collected by filtration and recrystallized from water-methanol to obtain 4-(2-pyridylthio)butylaminomethylenebisphosphonic acid hydrochloride (1.46 g, 70%) as a white powder.

reactant | tetraethyl 4-(2-pyridylthio)butylaminomethylenebisphosphonate | 2.50 g | N1=C(C=CC=C1)SCCCCNC(P(OCC)(OCC)=O)P(OCC)(OCC)=O | C18H34N2O6P2S
reactant | hydrochloric acid | 40 ml | Cl | ClH
product | 4-(2-pyridylthio)butylaminomethylenebisphosphonic acid hydrochloride | 1.46 g, 70% | Cl.N1=C(C=CC=C1)SCCCCNC(P(O)(O)=O)P(O)(O)=O | InChI=1S/C10H18N2O6P2S.ClH/c13-19(14,15)10(20(16,17)18)12-7-3-4-8-21-9-5-1-2-6-11-9;/h1-2,5-6,10,12H,3-4,7-8H2,(H2,13,14,15)(H2,16,17,18);1H
